US05397803
2. Preparation of Glutamine-Supplemented Diets
The defined oral diets contained 427 calories/100 g and included 0.2% (w/w) choline chloride, 10% corn oil, 46.9% dextrin-white, 23.4% sucrose, 5% salt mixture, 0.5% vitamin mixture. Both diets consisted of 14% amino acids, including 7.17% total essential amino acids and 6.83% total nonessential amino acids. The diet lacking GLN (-GLN) contained 0.937% each of alanine, asparagine, aspartic acid, proline and serine. The GLN-enriched diet (+GLN) contained 0.237% of these amino acids and 3.5% GLN. Thus, GLN represented 25% of total amino acids and 51% of nonessential amino acids in the +GLN diet.

reactant | sucrose | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)O[C@]2([C@H]([C@@H]([C@H](O2)CO)O)O)CO)O)O)O)O | C12H22O11
reactant | alanine | N[C@@H](C)C(=O)O | C3H7NO2
reactant | asparagine | N[C@@H](CC(N)=O)C(=O)O | C4H8N2O3
reactant | aspartic acid | N[C@@H](CC(=O)O)C(=O)O | C4H7NO4
reactant | proline | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | serine | N[C@@H](CO)C(=O)O | C3H7NO3
catalyst | choline chloride | [Cl-].OCC[N+](C)(C)C
product | Glutamine | N[C@@H](CCC(N)=O)C(=O)O | C5H10N2O3
